US06294555B1
Preparation of 4-amino-5-chloro-N-[1-(1-dimethylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]-2-methoxybenzamide
To a solution of 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide (610 mg) in methylene chloride (30 ml) is added triethylamine (0.22 ml), and further thereto is added dimethylcarbamoyl chloride (0.15 ml) under ice-cooling. The mixture is stirred at room temperature for 5 hours. The reaction mixture is washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by basic silica gel column chromatography (eluent; chloroform) to give the desired compound (720 mg) as white amorphous.

reactant | 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide | 610 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCNCC2)C=C1Cl)OC | C19H29ClN4O2
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.15 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-5-chloro-N-[1-(1-dimethylcarbamoyl-4-piperidinylmethyl)-4-piperidinyl]-2-methoxybenzamide | 720 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(N(C)C)=O)C=C1Cl)OC | C22H34ClN5O3
